US03987091
Sodium hydride (53%) (1.5 g. excess) is washed with benzene three times by decantation, then dimethyl formamide (100 ml.) is added. To this stirred suspension is added a solution of phthalimide (4.3 g., 0.03 mole) in dimethyl formamide (50 ml.) at such a rate as to keep the temperature below 35°C. A clear solution is obtained and to it is added 1-chloro-4-(2-tetrahydropyranyloxy)-nonane (7.8 g., 0.03 mole) and the resulting clear solution is stirred and heated at 95°C. for 20 hours. The reaction is then concentrated to one half its volume in vacuo, poured into ice water (200 ml.) and extracted with ether (2 × 150 ml.). The ether is washed with 5% sodium hydroxide (2 × 50 ml.), saturated sodium chloride solution (2 × 50 ml.) then dried over sodium sulfate. Evaporation of the ether affords 4.5 g. (45% yield) of N-[4-(2-tetrahydropyranyloxy)nonyl]phthalimide melting 59°- 61°C. After recrystallization from cyclohexane, the product melts at 62°-63°C.

reactant | phthalimide | 0.03 mole, 4.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 1-chloro-4-(2-tetrahydropyranyloxy)-nonane | 0.03 mole, 7.8 g | ClCCCC(CCCCC)OC1OCCCC1 | C14H27ClO2
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[4-(2-tetrahydropyranyloxy)nonyl]phthalimide | 45% yield | O1C(CCCC1)OC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)CCCCC | C22H31NO4
